US08278343B2
Preparation 54: 1-(2-Ethoxy-benzoyl)-3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine (±)
The title compound was prepared according to the method described for Preparation 29 using 4′-fluoro-biphenyl-4-ol and 1-(2-ethoxy-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 16) to afford the racemate as a white solid (191 mg, 70%)

reactant | 4′-fluoro-biphenyl-4-ol | FC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9FO
reactant | 1-(2-ethoxy-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OCC)=O)CI | C17H22INO4
product | 1-(2-Ethoxy-benzoyl)-3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine | C(C)OC1=C(C(=O)N2CC(CC2)COC2=CC=C(C=C2)C2=CC=C(C=C2)F)C=CC=C1 | C26H26FNO3
